US07723331B2
c) 6-(4-Chlorophenyl)-3-{3-[(1-methylpiperidin-3-yl)oxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one
Methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate (180 mg, 0.558 mmol) and 1-{3-[(1-methylpiperidin-3-yl)oxy]phenyl}methanamine (135 mg, 0.613 mmol) were dissolved in MeOH (2 ml). The reaction was heated in a microwave at 120° C. for 15 minutes, MeOH added, the resulting precipitate filtered and washed with MeOH to yield the title compound as a white solid. Yield: 140 mg (54%). 1H NMR (400 MHz, d6-DMSO) δ 8.66 (s, 1H), 7.92-7.87 (m, 3H), 7.57 (m, 2H), 7.25 (t, 1H, J=8.0 Hz), 6.94 (m, 1H), 6.89 (m, 2H), 5.18 (s, 2H), 4.36 (m, 1H J=4.3 Hz), 3.30 (d, 1H, J=9.6 Hz), 2.81 (d, 1H, J=10.7 Hz), 2.15 (s, 3H), 2.04-1.88 (m, 3H), 1.73-1.67 (m, 1H), 1.57-1.45 (m, 1H), 1.36-1.25 (m, 1H). MS (ESI+) 465.93 (M+1H+).

reactant | Methyl 5-(4-chlorophenyl)-3-{[(1E)-(dimethylamino)methylene]amino}thiophene-2-carboxylate | 0.558 mmol, 180 mg | ClC1=CC=C(C=C1)C1=CC(=C(S1)C(=O)OC)/N=C/N(C)C | C15H15ClN2O2S
reactant | 1-{3-[(1-methylpiperidin-3-yl)oxy]phenyl}methanamine | 0.613 mmol, 135 mg | CN1CC(CCC1)OC=1C=C(C=CC1)CN | C13H20N2O
solvent | MeOH | 2 ml | CO | CH4O
product | 6-(4-Chlorophenyl)-3-{3-[(1-methylpiperidin-3-yl)oxy]benzyl}thieno[3,2-d]pyrimidin-4(3H)-one | ClC1=CC=C(C=C1)C1=CC=2N=CN(C(C2S1)=O)CC1=CC(=CC=C1)OC1CN(CCC1)C | C25H24ClN3O2S
